US05434181
A mixture comprising 5.5 g of N-{(tetrahydro-3-furanyl)methyl}-N-ethylamine, 3.0 g of S-methyl-N-nitro-N'-methyisothiourea, 30 ml of ethanol and 0.5 g of DMAP was refluxed for 4 hours. Then, the reaction fluid was concentrated under a reduced pressure to obtain an oily matter, which was purified by column chromatography. 1.1 g of 1-{(tetrahydro-3-furanyl)methyl}-1-ethyl-2-nitro-3-methylguanidine were obtained.

reactant | N-{(tetrahydro-3-furanyl)methyl}-N-ethylamine | 5.5 g | O1CC(CC1)CNCC | C7H15NO
reactant | S-methyl-N-nitro-N'-methyisothiourea | 3.0 g | CSC(N[N+](=O)[O-])=NC | C3H7N3O2S
catalyst | DMAP | 0.5 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 1-{(tetrahydro-3-furanyl)methyl}-1-ethyl-2-nitro-3-methylguanidine | 1.1 g | O1CC(CC1)CN(C(=N[N+](=O)[O-])NC)CC | C9H18N4O3
